US04100291
27 ml of redistilled pyridine were added at an interior temperature of 8° to 15° C to 120 ml of dioxane and 11.2 ml of acetyl chloride cooled in an ice bath and then a mixture of 22 g of 5-chloro-1H-indole in 120 ml of dioxane was added thereto while keeping the temperature at 10° to 15° C. The mixture was then stirred for 7 hours at room temperature and protected from the light and the mixture was poured into 500 ml of water. The resulting mixture was stirred for 5 minutes and then another 500 ml of water were added thereto. The mixture was filtered and the product was empasted with 40 ml of acetonitrile and then was filtered. The product was rinsed with acetonitrile and once with ether to obtain 13.5 g of 1-acetyl-4-(5-chloro-[1H]-indol-3-yl)-1,4-dihydro-pyridine in the form of a pale yellow solid melting at 202° C.

reactant | pyridine | 27 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 11.2 ml | C(C)(=O)Cl | C2H3ClO
reactant | 5-chloro-1H-indole | 22 g | ClC=1C=C2C=CNC2=CC1 | C8H6ClN
reactant | water | 500 ml | O | H2O
reactant | water | 500 ml | O | H2O
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | 1-acetyl-4-(5-chloro-[1H]-indol-3-yl)-1,4-dihydro-pyridine | 13.5 g | C(C)(=O)N1C=CC(C=C1)C1=CNC2=CC=C(C=C12)Cl | C15H13ClN2O
